US05134111
(c) Preparation of 3-chloro-5-ethyl-4-methoxymethoxy1-naphthalenecarbaldehyde
1.0 g of 3-chloro-5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde, 0.91 ml of chloromethyl methyl ether and 3.5 ml of N,N-diisopropylethylamine were dissolved in 10 ml of dichloromethane, and reacted at room temperature for 4 hours.

reactant | 3-chloro-5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde | 1.0 g | ClC=1C=C(C2=CC=CC(=C2C1O)CC)C=O | C13H11ClO2
reactant | chloromethyl methyl ether | 0.91 ml | COCCl | C2H5ClO
reactant | N,N-diisopropylethylamine | 3.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-chloro-5-ethyl-4-methoxymethoxy1-naphthalenecarbaldehyde | ClC=1C=C(C2=CC=CC(=C2C1OCOC)CC)C=O | C15H15ClO3
